US07125990B2
2-Azido-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide, Scheme 3: (L)
A mixture of 2-Chloro-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide (0.100 g, 0.00043 mol), potassium iodide (0.0072 g, 0.00043 mol), sodium azide (0.056 g, 0.00086 mol), and anhydrous dimethylformamide (7 mL) was heated in a 50° C. oil bath for 4 h. Upon cooling to room temperature, the reaction mixture was cooled to 0° C., water (10 mL) was added, and the solid product was collected by suction filtration, washed several times with water, and placed in a vacuum oven set at low heat for 4 h. The dried product amounted to 0.0934 g (0.391 mmol, 91%). 1H NMR (CDCl3, 300 MHz) δ 7.70 (br s 1H), 7.12 (s, 1H), 6.98 (s, 1H), 4.2 (s, 2H), 2.3 (s, 3H), 2.23 (s, 3H). LC/MS: tR=1.23 min., (MH+)=239.06.

reactant | 2-Chloro-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide | 0.00043 mol, 0.100 g | ClCC(=O)NC1=C(C=C(C=C1C)C)Cl | C10H11Cl2NO
reactant | potassium iodide | 0.00043 mol, 0.0072 g | [I-].[K+]
reactant | sodium azide | 0.00086 mol, 0.056 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 2-Azido-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide | N(=[N+]=[N-])CC(=O)NC1=C(C=C(C=C1C)C)Cl | C10H11ClN4O
